US08053458B2
2-(4-Methoxy-phenyl)-5,5′-dimethyl-2′-phenyl-2H,2′H-[3,4′]bipyrazolyl-3′-ol
To (4-methoxyphenyl)-hydrazine hydrochloride (0.083 g, 0.48 mmol) in ethanol (5 ml) add sodium bicarbonate (0.067 g, 0.80 mmol) after which stir the mixture for 10 min. Add 1-[1-phenyl-3-methyl-5-oxo-4,5-dihydro-1H-pyrazol-4-yl]-butane-1,3-dione (0.103 g, 0.40 mmol. The mixture was heated at reflux for 1.5 hours after which it was evaporated to dryness. Chromatography on silica gel, eluting with 50 to 100% ethyl acetate/heptane provided 0.071 g of the title compound.

reactant | (4-methoxyphenyl)-hydrazine hydrochloride | 0.48 mmol, 0.083 g | Cl.COC1=CC=C(C=C1)NN
reactant | sodium bicarbonate | 0.80 mmol, 0.067 g | C([O-])(O)=O.[Na+]
reactant | 1-[1-phenyl-3-methyl-5-oxo-4,5-dihydro-1H-pyrazol-4-yl]-butane-1,3-dione | C1(=CC=CC=C1)N1N=C(C(C1=O)C(CC(C)=O)=O)C | C14H14N2O3
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 2-(4-Methoxy-phenyl)-5,5′-dimethyl-2′-phenyl-2H,2′H-[3,4′]bipyrazolyl-3′-ol | 0.071 g | COC1=CC=C(C=C1)N1N=C(C=C1C1=C(N(N=C1C)C1=CC=CC=C1)O)C | C21H20N4O2
